US07157476B2
Methyl 3-hydroxyphenylacetate (87 g, 0.52 mol) was dissolved in acetone (500 mL). 1-Bromo-3-chloropropane (55 mL, 0.56 mol) was added, followed by potassium carbonate (73 g, 0.53 mol) and acetone (100 mL). The reaction was heated to reflux. After 24 hours, more 1-bromo-3-chloropropane (5 mL, 50 mmol) was added and the reaction refluxed for a further 24 hours. The mixture was cooled, filtered and rotary evaporated. The product was purified by passage over a short column of silica gel (650 g: 135 mm diameter column) eluted with hexane, and 30% ethyl acetate in hexane, to afford methyl 3-(3-chloro-propoxy)-phenylacetate (120 g, 95%) as an oil. 1H NMR (500 MHz, CDCl3) δ 7.25 (1H, dd), 6.93–6.85 (3H, m), 4.16 (2H, t), 3.79 (2H, t), 3.73 (3H, s), 3.62 (2H, s), 2.28 (2H, m).

reactant | Methyl 3-hydroxyphenylacetate | 0.52 mol, 87 g | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | 1-Bromo-3-chloropropane | 0.56 mol, 55 mL | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.53 mol, 73 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 50 mmol, 5 mL | BrCCCCl | C3H6BrCl
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | methyl 3-(3-chloro-propoxy)-phenylacetate | 120 g, 95% | ClCCCOC=1C=C(C=CC1)CC(=O)OC | C12H15ClO3
